US05240925
To a dry flask under a nitrogen atmosphere was added 0.9 g. (4.8 mmoles) of 4-(4-hydroxybutyl)-2,6-dimethylmorpholine in 2.5 ml. of chloroform. The solution was stirred and heated to 40° C. and 0.49 ml. (6.72 mmoles) of thionyl chloride in 2.5 ml. of chloroform was added slowly. The mixture was slowly heated to reflux and held for two hours, then was cooled and diluted with diethyl ether to precipitate the crude product. The crystals were filtered and washed of residual thionyl chloride using diethyl ether to obtain 1.0 g. (85% yield) of 4-(4-chlorobutyl)-2,6-dimethylmorpholine hydrochloride.

reactant | 4-(4-hydroxybutyl)-2,6-dimethylmorpholine | 4.8 mmoles | OCCCCN1CC(OC(C1)C)C | C10H21NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | thionyl chloride | 6.72 mmoles | S(=O)(Cl)Cl | Cl2OS
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(4-chlorobutyl)-2,6-dimethylmorpholine hydrochloride | 85% yield | Cl.ClCCCCN1CC(OC(C1)C)C | InChI=1S/C10H20ClNO.ClH/c1-9-7-12(6-4-3-5-11)8-10(2)13-9;/h9-10H,3-8H2,1-2H3;1H
